US09445594B2
Preparation of 1-(2-isopropyl-5-methylphenyl)-3-(3-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)propyl)thiourea (F29)
To 3-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)propan-1-amine (0.160 g, 0.442 mmol) in a 25 mL vial equipped with a stir bar was added 1-isopropyl-2-isothiocyanato-4-methylbenzene (65% in dichloromethane, 0.156 g, 0.530 mmol) in dichloromethane (6.31 ml) followed by triethylamine (0.062 ml, 0.442 mmol). The reaction was stirred overnight at room temperature. The reaction mixture was diluted with ethyl acetate and adsorbed onto Celite®. Purification by flash column chromatography using 2.5-40% ethyl acetate/B, where B=1:1 dichloromethane/hexanes as eluent provided a white solid. The solid was dried overnight at 50° C. at about 25 in. Hg providing the title compound as a white solid (0.172 g, 70%).

reactant | 3-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)propan-1-amine | 0.442 mmol, 0.160 g | FC(OC1=CC=C(C=C1)N1N=C(N=C1)C1=CC=C(C=C1)CCCN)(F)F | C18H17F3N4O
reactant | 1-isopropyl-2-isothiocyanato-4-methylbenzene | 0.530 mmol, 0.156 g | C(C)(C)C1=C(C=C(C=C1)C)N=C=S | C11H13NS
reactant | triethylamine | 0.442 mmol, 0.062 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 6.31 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(2-isopropyl-5-methylphenyl)-3-(3-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)propyl)thiourea | C(C)(C)C1=C(C=C(C=C1)C)NC(=S)NCCCC1=CC=C(C=C1)C1=NN(C=N1)C1=CC=C(C=C1)OC(F)(F)F | C29H30F3N5OS
